US08283353B2
4-[(1-methyl-1H-benzimidazol-2-yl)methyl]-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one hydrochloride
A mixture of hydroxylammonium chloride (1.7 g), sodium hydrogen carbonate (2.8 g) and dimethyl sulfoxide (15 mL) was stirred at 40° C. for 30 min, 4′-({4-[(1-methyl-1H-benzimidazol-2-yl)methyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.84 g) was added, and the mixture was stirred at 90° C. for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (15 mL). N,N′-Carbonyldiimidazole (0.32 g) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (0.27 mL) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography, and dissolved in ethyl acetate (10 mL), hydrochloric acid (4N ethyl acetate solution, 0.051 mL) was added, and the mixture was stirred at room temperature. The precipitated solid was collected by filtration to give the title compound as a colorless amorphous solid (0.13 g, 39%).

reactant | hydroxylammonium chloride | 1.7 g | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 2.8 g | C(O)([O-])=O.[Na+]
reactant | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
reactant | 4′-({4-[(1-methyl-1H-benzimidazol-2-yl)methyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.84 g | CN1C(=NC2=C1C=CC=C2)CN2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=CN1 | C31H27N7O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(1-methyl-1H-benzimidazol-2-yl)methyl]-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one hydrochloride | 0.13 g, 39% | Cl.CN1C(=NC2=C1C=CC=C2)CN2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NOC(N2)=O)CCC)N=CN1 | InChI=1S/C32H28N8O3.ClH/c1-3-8-26-24(17-20-13-15-21(16-14-20)22-9-4-5-10-23(22)29-36-32(42)43-37-29)30(41)39(31-33-19-34-40(26)31)18-28-35-25-11-6-7-12-27(25)38(28)2;/h4-7,9-16,19H,3,8,17-18H2,1-2H3,(H,36,37,42);1H
